* NeurX Hybrid Memristor-Spintronics System v0.11

* Power Supply
Vdd Vdd 0 DC 1.8

* Ferrite Beads for Noise Suppression
Lferrite1 Vdd_filtered Vdd 600

* Decoupling Capacitors for Filtering Transients
Cdec1 Vdd_filtered 0 100n
Cdec2 Vdd_filtered 0 1u

* Define Memristors as Subcircuits
.subckt memristor p n Rinit=100 Roff=16k Ron=100u
Rmem p n {Rinit}
.ends memristor

* Storage Array Configuration
Xstore1 S1 S3 memristor Rinit=100 Roff=16k Ron=100u
Xstore2 S1 S4 memristor Rinit=100 Roff=16k Ron=100u

* Computation Array Configuration
Xcomp1 C1 C3 memristor Rinit=100 Roff=16k Ron=100u
Xcomp2 C1 C4 memristor Rinit=100 Roff=16k Ron=100u

* Parallel Control Circuit for Storage Array Rows with Phase Shift
Vstore1a S1a 0 PULSE(0 1.8 0 1n 1n 10n 20n)
Vstore1b S1b 0 PULSE(0 1.8 10n 1n 1n 10n 20n)

* Parallel Control Circuit for Computation Array Rows with Phase Shift
Vcomp1a C1a 0 PULSE(0 1.8 5n 1n 1n 10n 20n)
Vcomp1b C1b 0 PULSE(0 1.8 15n 1n 1n 10n 20n)

* Storage Array Columns
Rstore1 S3 0 1k
Rstore2 S4 0 1k

* Computation Array Columns
Rcomp1 C3 0 1k
Rcomp2 C4 0 1k

* Spintronic Elements for Logic Operations (simplified model)
Rspin1 N5 0 500
Rspin2 N6 0 500

* Control Signals for Spintronic Elements
Vspin1 N5 0 PULSE(0 1.8 5n 1n 1n 10n 20n)
Vspin2 N6 0 PULSE(0 1.8 15n 1n 1n 10n 20n)

* Additional Decoupling Capacitors
Cdec3 S1a 0 100n
Cdec4 S1b 0 100n
Cdec5 C1a 0 100n
Cdec6 C1b 0 100n
Cdec7 N5 0 100n

* RC Low-Pass Filters for Noise Suppression
Rfilter1 Vdd_filtered Vdd_filtered2 10
Cfilter1 Vdd_filtered2 0 10u
Rfilter2 Vdd_filtered2 Vdd 10
Cfilter2 Vdd 0 1u

* Additional RC Filter Stage
Rfilter3 Vdd_filtered2 Vdd_filtered3 10
Cfilter3 Vdd_filtered3 0 10u
Rfilter4 Vdd_filtered3 Vdd 10
Cfilter4 Vdd 0 1u

* Improved OpAmp Model with NPN and PNP Transistors
.model NPN npn (bf=100)
.model PNP pnp (bf=100)

.subckt OpAmpModel noninv inv vcc vee out
Q1 noninv base1 vcc NPN
Q2 inv base2 vcc NPN
I1 base1 inv 50u
I2 base2 noninv 50u
Q3 base1 out vee PNP
R1 out vee 1k
Eout out vee out vee 100k
.ends OpAmpModel

* Active Low-Pass Filter with OpAmp
Xopamp1 Vdd_filtered3 0 Vdd 0 Vout_filtered OpAmpModel
Ropamp_feedback Vout_filtered Vdd_filtered3 1k
Copamp_feedback Vout_filtered 0 1u

* Simulation Commands
.tran 1n 100n
.end