* NeurX Hybrid Memristor-Spintronics System v0.04

* Power Supply
Vdd Vdd 0 DC 1.8

* Ferrite Beads for Noise Suppression
Lferrite1 Vdd_filtered Vdd 600

* Decoupling Capacitors for Filtering Transients
Cdec1 Vdd_filtered 0 10u
Cdec2 Vdd_filtered 0 0.1u

* Define Memristors as Subcircuits
.subckt memristor p n Rinit=100 Roff=16k Ron=100u
Rmem p n {Rinit}
.ends memristor

* Storage Array Configuration
Xstore1 S1 S3 memristor Rinit=100 Roff=16k Ron=100u
Xstore2 S1 S4 memristor Rinit=100 Roff=16k Ron=100u

* Computation Array Configuration
Xcomp1 C1 C3 memristor Rinit=100 Roff=16k Ron=100u
Xcomp2 C1 C4 memristor Rinit=100 Roff=16k Ron=100u

* Control Circuit for Storage Array Rows
Vstore1 S1 0 PULSE(0 1.8 0 1n 1n 10n 20n)

* Control Circuit for Computation Array Rows
Vcomp1 C1 0 PULSE(0 1.8 10n 1n 1n 10n 20n)

* Storage Array Columns
Rstore1 S3 0 1k
Rstore2 S4 0 1k

* Computation Array Columns
Rcomp1 C3 0 1k
Rcomp2 C4 0 1k

* Spintronic Elements for Logic Operations (simplified model)
Rspin1 N5 0 500
Rspin2 N6 0 500

* Control Signals for Spintronic Elements
Vspin1 N5 0 PULSE(0 1.8 5n 1n 1n 10n 20n)
Vspin2 N6 0 PULSE(0 1.8 15n 1n 1n 10n 20n)

* Additional Decoupling Capacitors
Cdec3 S1 0 10n
Cdec4 C1 0 10n
Cdec5 N5 0 10n

* RC Low-Pass Filters for Noise Suppression
Rfilter1 Vdd_filtered Vdd_filtered2 10
Cfilter1 Vdd_filtered2 0 1u
Rfilter2 Vdd_filtered2 Vdd 10
Cfilter2 Vdd 0 0.1u

* Simulation Commands
.tran 1n 100n
.end